US07956216B2
93A: 4-Phenyl-N-propyl-butyramide
EDAC.HCl (959 mg, 5 mmol) was added to a mixture of phenylacetic acid (821 mg, 5 mmol), propylamine (411 μL, 5 mmol) and HOBT (676 mg, 5 mmol) in 5 mL of CH3CN. The reaction was stirred for 72 hours. After this time, the mixture was diluted with AcOEt. The organic layer was washed three times with HCl 2N, three times with NaOH 2N, dried over MgSO4 and concentrated. A with solid was obtained (698 mg, 68%). NMR 1H (ppm, CDCl3): 7.26-7.21 (m, 2H), 7.17-7.12 (m, 3H), 6.02 (br. s., 1H), 3.18-3.12 (m, 2H), 2.61 (t, J3=7.49 Hz, 2H), 2.15 (t, J3=7.14 Hz, 2H), 1.93 (q, J3=7.36 Hz, 2H), 1.47 (sex. J3=7.32 Hz, 2H), 0.88 (t, J3=7.37 Hz, 3H).

reactant | EDAC.HCl | 5 mmol, 959 mg | CCN=C=NCCCN(C)C.Cl
reactant | phenylacetic acid | 5 mmol, 821 mg | C1(=CC=CC=C1)CC(=O)O | C8H8O2
reactant | propylamine | 5 mmol, 411 μL | C(CC)N | C3H9N
reactant | HOBT | 5 mmol, 676 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | CH3CN | 5 mL | CC#N | C2H3N
solvent | AcOEt | CCOC(=O)C | C4H8O2
product | 4-Phenyl-N-propyl-butyramide | C1(=CC=CC=C1)CCCC(=O)NCCC | C13H19NO
